US06716863B2
(ii) 4-chloromethyl-2-[(E)-2-(4-trifluoromethylphenyl)ethenyl]-1,3-oxazole
A solution of (E)-3-(4-trifluoromethylphenyl)-2-propenamide (17.9 g) and 1,3-dichloroacetone (14.8 g) in toluene (83 ml) was refluxed under heating for 9 hours using a Dean-Stark apparatus. After cooling, water was added; the reaction mixture was extracted with ethyl acetate and washed with saturated saline, after which it was dried over anhydrous magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was purified by silica gel column chromatography (eluent: hexane-methyl acetate=6:1→5:1) to yield the titled compound (15.1 g) as a colorless needle crystal.

reactant | (E)-3-(4-trifluoromethylphenyl)-2-propenamide | 17.9 g | FC(C1=CC=C(C=C1)/C=C/C(=O)N)(F)F | C10H8F3NO
reactant | 1,3-dichloroacetone | 14.8 g | ClCC(=O)CCl | C3H4Cl2O
reactant | water | O | H2O
solvent | toluene | 83 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloromethyl-2-[(E)-2-(4-trifluoromethylphenyl)ethenyl]-1,3-oxazole | 15.1 g | ClCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)C(F)(F)F | C13H9ClF3NO
